US07544697B2
A mixture of 1-(4-chlorobutyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine (19.45 g, 61.39 mmol), prepared as described in Example 46, platinum oxide (10.00 g) and trifluoroacetic acid (200 mL) was placed under hydrogen pressure (50 psi, 3.4×105 Pa) for 2 days. The reaction mixture was filtered through CELITE filter aid. The filtrate was concentrated under reduced pressure to provide a dark oil. The oil was chilled in an ice bath, ice was added, and the mixture was made basic (pH 14) by the addition of 1 N potassium hydroxide. The resulting solid was isolated by filtration and then dissolved in dichloromethane. The solution was washed sequentially with 1 N potassium hydroxide, water, and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was dried under vacuum for 2 days to provide 18.0 g of 1-(4-chlorobutyl)-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine as an oil.

reactant | 1-(4-chlorobutyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 61.39 mmol, 19.45 g | ClCCCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | C17H21ClN4
reactant | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium hydroxide | 1 N | [OH-].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | platinum oxide | 10.00 g | [Pt]=O
product | 1-(4-chlorobutyl)-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-amine | 18.0 g | ClCCCCC=1N(N=C2C(=NC=3CCCCC3C21)N)CCC | C17H25ClN4
